US05198452
A solution of 1.25 g of 2-[(E)-2-(3-aminophenyl)ethenyl]-6-[4-(4-methylphenyl)butoxy]methylpyridine, 1.05 g of anhydrous diethyl succinate, 0.6 g of sodium acetate and 10 ml of dimethoxyethane was stirred under reflux for 5 hours. After completion of the reaction, the solvent was distilled off and to the residue was added water. After extracting with ethyl acetate, the organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off. To the residue was added isopropyl ether, the precipitated crystals were collected by filtration and recrystallized from ethanol to give 0.63 g of 2-[(E)-2-(3-(3-carboxy-3-ethylvalerylamino)phenyl)ethenyl]-6-[4-(4-methylphenyl)butoxy]methylpyridine, melting at 141°-142° C. as white crystals.

reactant | 2-[(E)-2-(3-aminophenyl)ethenyl]-6-[4-(4-methylphenyl)butoxy]methylpyridine | 1.25 g | NC=1C=C(C=CC1)/C=C/C1=NC(=CC=C1)COCCCCC1=CC=C(C=C1)C | C25H28N2O
reactant | diethyl succinate | 1.05 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | sodium acetate | 0.6 g | C(C)(=O)[O-].[Na+]
reactant | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | 2-[(E)-2-(3-(3-carboxy-3-ethylvalerylamino)phenyl)ethenyl]-6-[4-(4-methylphenyl)butoxy]methylpyridine | 0.63 g | C(=O)(O)C(CC(=O)NC=1C=C(C=CC1)/C=C/C1=NC(=CC=C1)COCCCCC1=CC=C(C=C1)C)(CC)CC | C33H40N2O4
